US07678929B2
9.1. Preparation of 4,5-difluoro-7-pentyl-2-(4-propylphenyl)-8,9-dihydro-7H-furo[3,2-f]chromene
2.0 g (5.23 mmol) of 7,8-difluoro-5-iodo-2-pentylchroman-6-ol are firstly stirred for 6 h at 60° C. together with 1.13 g (7.85 mmol) of ethynyl-n-propylbenzene in the presence of 110 mg (0.16 mmol) of bis(triphenylphosphine)palladium(II) chloride and 30 mg (0.16 mmol) of copper(I) iodide in 22 ml of triethylamine. The mixture is subsequently refluxed for 18 h. After cooling, the batch is added to ice/water and acidified using hydrochloric acid. The mixture is extracted a number of times with MTBE, and the combined extracts are washed with water and sat. sodium chloride soln. The solution is dried using sodium sulfate and concentrated to dryness. The residue is purified by column chromatography (SiO2,

reactant | 7,8-difluoro-5-iodo-2-pentylchroman-6-ol | 5.23 mmol, 2.0 g | FC1=C(C(=C2CCC(OC2=C1F)CCCCC)I)O | C14H17F2IO2
reactant | ethynyl-n-propylbenzene | 7.85 mmol, 1.13 g | C(#C)C1=C(C=CC=C1)CCC | C11H12
reactant | hydrochloric acid | Cl | ClH
reactant | triethylamine | 22 ml | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.16 mmol, 110 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.16 mmol, 30 mg | [Cu]I
product | 4,5-difluoro-7-pentyl-2-(4-propylphenyl)-8,9-dihydro-7H-furo[3,2-f]chromene | FC1=C2C(=C3CCC(OC3=C1F)CCCCC)C=C(O2)C2=CC=C(C=C2)CCC | C25H28F2O2
